US08067445B2
Synthesis of {6-Benzyloxy-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid (Compound 1-128)
To a solution of {6-benzyloxy-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester (0.050 g, 0.08 mmol) in MeOH (3 mL) was added 1N aqueous LiOH (1 mL), and the reaction was stirred at 65° C. overnight. The mixture was acidified with 1N aqueous HCl and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound. M+H is 578.

reactant | {6-benzyloxy-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | 0.08 mmol, 0.050 g | C(C)OC(CC=1C=C(C(=CC1)OCC1=CC=CC=C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C35H34F3NO5
reactant | LiOH | 1N, 1 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | {6-Benzyloxy-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)CC(=O)O | C33H30F3NO5
